* AD8007/AD8008 Spice Model   
* Description: Amplifier
* Generic Desc: Low Distortion / Noise High Speed Amp
* Developed by: VWC/ADI                                         
* Revision History: 08/10/2012 - Updated to new header style
* 0.0 (06/2002)
* Copyright 2002, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*     distortion is not characterized
*     Common mode rejection ratio is not modeled
*
* Parameters modeled include:
*       Open loop gain and phase vs. frequency
*       Inverting terminal input resistance
*       Output clamping voltage and current
*       Slew rate
*       Output currents are reflected to V supplies
*       Vos is static and will not vary
*       
* END Notes       
*
* Node assignments
*              Non-Inverting Input
*              | Inverting Input 
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  | 
*              | | |  |  |
.SUBCKT AD8007 1 2 99 50 45   
* INPUT STAGE
VL1 8 2 0
I1 99 5 .075m
I2 4 50 .075m
Q1 50 3 5 QP1
Q2 99 3 4 QN1
Q3 99 5 8 QN2
Q4 50 4 8 QP2

* INPUT ERROR SOURCES
IB1 2 98 0.2e-6
IB2 3 98 2e-6
VOS2 3 1 4m
Cin 3 0 1p

* SLEW RATE LIMITING STAGE
FL1 98 40 VL1 1
DL1 40 98 DX
DL2 98 40 DX
DL3 40 42 DX
DL4 42 40 DX
VL2 42 44 0
RL1 44 98 90

* GAIN STAGE & POLE AT 245 kHz
Eref 98 0 POLY(2) 99 0 50 0 0 .5 .5 
F1 98 13 VL2 2.1
R7 98 13 1e6
C3 98 13 .65e-12
V1 99 14 1.71
V2 16 50 1.71
D1 13 14 DX
D2 16 13 DX

* 2nd POLE AT 1.6 GHz
G2 98 23 13 98 1e-6
R8 98 23 1e6
C4 98 23 99e-19

* 3rd POLE AT 1.6 GHz
G3 98 33 23 98 1
R10 98 33 1
C5 98 33 99p

* 4th POLE AT 1.7 GHz
G4 98 43 33 98 1
R11 98 43 1
C6 98 43 94p

* 5th POLE AT 1.7 GHz
G5 98 53 43 98 1
R12 98 53 1
C7 98 53 94p

* BUFFER STAGE
Gbuf 98 32 53 98 1e-2
Rbuf 98 32 1e2

* OUTPUT STAGE
Vo1 99 90 0
Vo2 51 50 0
R18 25 90 0.2
R19 25 51 0.2
Vcd 25 45 0
G6 25 90 99 32 5
G7 51 25 32 50 5
V4 26 25 -.805
V5 25 27 -.805
D5 32 26 DX
D6 27 32 DX

Fo1 98 70 vcd 1
D7 70 71 DX
D8 72 70 DX
Vi1 71 98 0
Vi2 98 72 0

Erefq 96 0 45 0 1 
Iq 99 50 8.8m
Fq1 96 99 POLY(2) Vo1 Vi1 0 1 -1
Fq2 50 96 POLY(2) Vo2 Vi2 0 1 -1

.MODEL QN1 NPN(BF=32 VA=20 IS=0.5E-19)
.MODEL QN2 NPN(BF=1000 VA=20 IS=0.5E-19)
.MODEL QP1 PNP(BF=32 VA=20 IS=0.5E-19)
.MODEL QP2 PNP(BF=1000 VA=20 IS=0.5E-19)
.MODEL DX D(IS=1e-15)
.ENDS






